US06750350B2
Step 1E 4-(3-methoxyphenyl)-5-methyl-6-(2-fluorobenzyl)-2-(2-bromoethyl)-pyridazin-3-one
A solution of 4-(3-methoxyphenyl)-5-methyl-6-(2-fluorobenzyl)-2-(2-hydroxyethyl)-pyridazin-3-one (from above) and triphenylphospine (570 mg, 22 mmol) in dichloromethane (8 mL) was treated with N-bromosuccinamide (400 mg, 22 mmol) at room temperature for 2 hours. The crude product was used for next step. MS: 431 (MH+).

reactant | 4-(3-methoxyphenyl)-5-methyl-6-(2-fluorobenzyl)-2-(2-hydroxyethyl)-pyridazin-3-one | COC=1C=C(C=CC1)C=1C(N(N=C(C1C)CC1=C(C=CC=C1)F)CCO)=O | C21H21FN2O3
reactant | triphenylphospine | 22 mmol, 570 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinamide | 22 mmol, 400 mg | BrNC(CCC(=O)N)=O | C4H7BrN2O2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 4-(3-methoxyphenyl)-5-methyl-6-(2-fluorobenzyl)-2-(2-bromoethyl)-pyridazin-3-one | COC=1C=C(C=CC1)C=1C(N(N=C(C1C)CC1=C(C=CC=C1)F)CCBr)=O | C21H20BrFN2O2
